US07696223B2
c) 4-Bromo-2-[(tert-butoxycarbonyl-ethoxycarbonylmethyl-amino)-methyl]-5-(4-fluoro-phenyl)-1-(4-methoxy-phenyl)-1H-pyrrole-3-carboxylic acid ethyl ester
Prepared in analogy to that of Example 1(c) from 4-bromo-2-bromomethyl-5-(4-fluoro-phenyl)-1-(4-methoxy-phenyl)-1H-pyrrole-3-carboxylic acid ethyl ester and tert-butoxycarbonylamino-acetic acid ethyl ester. The title compound, ESI MS (m/z): 655 (M+Na+).

reactant | 4-bromo-2-bromomethyl-5-(4-fluoro-phenyl)-1-(4-methoxy-phenyl)-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C(=C1Br)C1=CC=C(C=C1)F)C1=CC=C(C=C1)OC)CBr | C21H18Br2FNO3
reactant | tert-butoxycarbonylamino-acetic acid ethyl ester | C(C)OC(CNC(=O)OC(C)(C)C)=O | C9H17NO4
product | 4-Bromo-2-[(tert-butoxycarbonyl-ethoxycarbonylmethyl-amino)-methyl]-5-(4-fluoro-phenyl)-1-(4-methoxy-phenyl)-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C(=C1Br)C1=CC=C(C=C1)F)C1=CC=C(C=C1)OC)CN(CC(=O)OCC)C(=O)OC(C)(C)C | C30H34BrFN2O7
